US07612114B2
(R)-6-{2-{{4-[2-(7-Azabicyclo[2.2.1]hept-7-yl)-ethoxy]-3-fluorobenzyl}isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (19 mg) and 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-bromoethanone (15 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (13 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 19 mg | FC=1C=C(C(=O)N(C2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=CC1O | C32H36FNO5
reactant | 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-bromoethanone | 15 mg | C12CCC(CC1)N2C(CBr)=O | C8H12BrNO
product | (R)-6-{2-{{4-[2-(7-Azabicyclo[2.2.1]hept-7-yl)-ethoxy]-3-fluorobenzyl}isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 13 mg | C12CCC(CC1)N2CCOC2=C(C=C(CN(C1=C(C=CC(=C1)OC)[C@H]1CC=3C=CC(=CC3CC1)O)C(C)C)C=C2)F | C35H43FN2O3
